US06248755B1
Step F: 2-(S)-(3-(S)-((4-(2-Benzyl-4-ethyl-thiazol-5-yl)-piperidine -1-yl)methyl)-4-(S)-3-fluorophenylpyrrolidin-1-yl)-3-ethylvaleric Acid
Reductive amination of 20 mg (0.045 mmol) of 2(S)-(3-(R)-formyl-4-(S)-(3-fluorophenyl)pyrrolidin-1-yl)-3-ethylvaleric acid, 4-methoxybenzyl ester with 15 mg (0.42 mmol) of 4-(2-benzyl-4-ethyl-thiazol-5-yl)piperidine as described in example 527 step D, and removal of 4-methoxybenzyl ester according to example 527 step E furnished 7 mg of the title compound. Mass spec. 592.4 (M+1), HPLC A 2.36 min.

reactant | 2(S)-(3-(R)-formyl-4-(S)-(3-fluorophenyl)pyrrolidin-1-yl)-3-ethylvaleric acid, 4-methoxybenzyl ester | 0.045 mmol, 20 mg | C(=O)[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)F)[C@H](C(=O)OCC1=CC=C(C=C1)OC)C(CC)CC | C26H32FNO4
reactant | 4-(2-benzyl-4-ethyl-thiazol-5-yl)piperidine | 0.42 mmol, 15 mg | C(C1=CC=CC=C1)C=1SC(=C(N1)CC)C1CCNCC1 | C17H22N2S
product | 2-(S)-(3-(S)-((4-(2-Benzyl-4-ethyl-thiazol-5-yl)-piperidine -1-yl)methyl)-4-(S)-3-fluorophenylpyrrolidin-1-yl)-3-ethylvaleric Acid | 7 mg | C(C1=CC=CC=C1)C=1SC(=C(N1)CC)C1CCN(CC1)C[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)F)[C@H](C(=O)O)C(CC)CC | C35H46FN3O2S
